US08314087B2
1-(2-(7-Methoxyquinolin-4-yloxy)ethyl)-5-phenylpiperidin-2-one.
To a stirring solution of 1-(2-hydroxyethyl)-5-phenylpiperidin-2-one (100 mg, 456 μmol) in DMF (1.5 mL) under nitrogen was added NaH (60% dispersion in mineral oil; 16 mg, 684 μmol). The suspension was stirred for 10 min at 23° C., then 4-chloro-7-methoxyquinoline (132 mg, 684 μmol) was added. After 2 h at 23° C. the reaction mixture was partitioned between CH2Cl2 (15 mL) and 5% NaHCO3 (10 mL). The aqueous was extracted with CH2Cl2 (5 mL) twice. The organics were dried over MgSO4, concentrated to a solid from toluene under reduced pressure. Purification on silica (12 g) eluting with 10>40% of 5% MeOH/CH2Cl2 afforded a white solid from acetonitrile. 1H NMR (400 MHz, Chloroform-d) δ ppm 1.95-2.09 (m, 2 H) 2.40-2.64 (m, 2 H) 2.97-3.09 (m, 1H) 3.63 (t, J=11.35 Hz, 1 H) 3.68-3.76 (m, 1 H) 3.88 (t, J=4.99 Hz, 2 H) 3.94 (s, 3 H) 4.36-4.47 (m, 2 H) 6.65 (d, J=5.28 Hz, 1 H) 7.08 (dd, J=9.19, 2.54 Hz, 1 H) 7.16 (d, J=6.85 Hz, 2 H) 7.22-7.34 (m, 3 H) 7.38 (d, J=2.35 Hz, 1 H) 7.96 (d, J=9.00 Hz, 1 H) 8.66 (d, J=5.28 Hz, 1 H).

reactant | 1-(2-hydroxyethyl)-5-phenylpiperidin-2-one | 456 μmol, 100 mg | OCCN1C(CCC(C1)C1=CC=CC=C1)=O | C13H17NO2
reactant | NaH | 684 μmol, 16 mg | [H-].[Na+]
reactant | 4-chloro-7-methoxyquinoline | 684 μmol, 132 mg | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-(2-(7-Methoxyquinolin-4-yloxy)ethyl)-5-phenylpiperidin-2-one | COC1=CC=C2C(=CC=NC2=C1)OCCN1C(CCC(C1)C1=CC=CC=C1)=O | C23H24N2O3
